US08614322B2
A mixture of 2-chlorobenzo[h]quinoline (2.43 g, 11.4 mmol), bromotrimethylsilane (3.00 ml, 22.7 mmol) and propionitrile (12 ml) was heated under reflux for 111 hours. The reaction mixture was then poured into a 10% NaOH solution containing ice. The organic phase was separated and the aqueous phase extracted with Et2O (3×15 ml). The organic phases were combined, dried over anhydrous Na2SO4 and the solvent evaporated under reduced pressure. The residue was purified by chromatography (SiO2, petroleum ether/acetate=9/1) to give 2-bromobenzo[h]quinoline in the form of a yellow solid: 2.82 g (96% yield); melting point: 113-114° C.

reactant | 2-chlorobenzo[h]quinoline | 11.4 mmol, 2.43 g | ClC1=NC2=C3C(=CC=C2C=C1)C=CC=C3 | C13H8ClN
reactant | bromotrimethylsilane | 22.7 mmol, 3.00 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | propionitrile | 12 ml | C(CC)#N | C3H5N
reactant | NaOH | [OH-].[Na+]
product | 2-bromobenzo[h]quinoline | 96% yield | BrC1=NC2=C3C(=CC=C2C=C1)C=CC=C3 | C13H8BrN
